US07115589B2
Trifluoro-methanesulfonic Acid 5-(tert-butoxycarbonylamino-methyl)-2-trifluoromethanesulfonyloxy-phenyl Ester:
(3,4-Dihydroxy-benzyl)-carbamic acid tert-butyl ester (5.5 g, 23.0 mmol), N-phenyltrifluoromethanesulfonimide (26.9 g, 75 mmol), and Et3N (14.9 mL, 107 mmol) were dissolved in CH2Cl2 (80 mL) and stirred for 24 h. The mixture was dumped into water and the layers seperated. The aqueous layer was extracted with methylene chloride. The combined extracts were washed with water, dried over magnesium sulfate, concentrated, and purified by silica gel chromatography (hexane/EtOAc 3:1) to yield the product as a brown oil (9.0 g, 78%).

reactant | (3,4-Dihydroxy-benzyl)-carbamic acid tert-butyl ester | 23.0 mmol, 5.5 g | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)O)O)=O | C12H17NO4
reactant | N-phenyltrifluoromethanesulfonimide | 75 mmol, 26.9 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | Et3N | 107 mmol, 14.9 mL | CCN(CC)CC | C6H15N
reactant | water | O | H2O
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic Acid 5-(tert-butoxycarbonylamino-methyl)-2-trifluoromethanesulfonyloxy-phenyl Ester | 9.0 g, 78% | C(C)(C)(C)OC(=O)NCC=1C=CC(=C(C1)OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C14H15F6NO8S2
